US07671235B2
C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride (0.25 gms, 0.7 mmole), sulfamide (70 mg) and water (10 mL) were added to 30 mL dioxane. The reaction mixture was refluxed for 24 hours, then cooled and concentrated under reduced pressure. The residue was recrystallized from EtOAc to give 280 mg of (R)—N-[6-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-aminosulfonamide, MS M+H=399.

reactant | C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride | 0.7 mmole, 0.25 gms | Cl.FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CN
reactant | sulfamide | 70 mg | S(=O)(=O)(N)N | H4N2O2S
reactant | water | 10 mL | O | H2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (R)—N-[6-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-aminosulfonamide | 280 mg | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCC[C@H](C2=CC1)CNS(=O)(=O)N | C17H19FN2O4S2
